US06930190B2
Synthesis of 2,3,5-triphenyl-6H-cyclopenta[b]thiophene
30.7 g (100 mmol) of 2,3-diphenyl-thienylcarbonic acid dimethylamide was mixed with 100 ml ether and the resulting suspension was added in some portions at 0° C. to solution of 1-stiryllitium prepared from 62 ml 1.6M BuLi in hexane (100 mmol) and 27 g 1-bromostyrene (150 mmol) in 200 ml ether. The mixture warmed to room temperature (r.t.) and was stirred for 1 h. The resulting solution was poured into 500 ml of 5% aqueous HCl. The organic phase was collected, separated from insoluble impurities, washed with water, dried over MgSO4 and evaporated to give 20.9 g (57%) of crystalline solid. The product can be contaminated with 5-10% of starting amide (by NMR) and can be used without further purification.

reactant | 2,3-diphenyl-thienylcarbonic acid dimethylamide | 100 mmol, 30.7 g | CN(C(OC=1C(=C(SC1)C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C19H17NO2S
reactant | BuLi | 1.6M, 62 ml | [Li]CCCC
reactant | hexane | 100 mmol | CCCCCC | C6H14
reactant | 1-bromostyrene | 150 mmol, 27 g | BrC1(C=C)CC=CC=C1 | C8H9Br
reactant | HCl | 500 ml | Cl | ClH
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2,3,5-triphenyl-6H-cyclopenta[b]thiophene | 20.9 g, 57% | C1(=CC=CC=C1)C1=C(C2=C(S1)CC(=C2)C2=CC=CC=C2)C2=CC=CC=C2 | C25H18S
